US05763450
150 mg of diethyl [4-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-phenyl]-phosphonate (Example 12bo)) are dissolved in 7 ml of ethanol and treated with 2 ml of a 2N sodium hydroxide solution. The solution is held under reflux for 45 min., then cooled and chromatographed on MCl-gel with water/acetonitrile. 74 mg of monoethyl [4-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-phenyl]-phosphonate sodium salt are isolated. Yield: 50%. Mass spectrum: peaks inter alia at m/e: 491 (M++Na, 10%), 469.2 (M++H, 100%), 419.4 (15%), 413.3 (20%), 391.3 (45%).

reactant | diethyl [4-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-phenyl]-phosphonate | 150 mg | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)C#CC1=CC=C(C=C1)P(OCC)(OCC)=O)OC)OC | C25H29N4O5P
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | monoethyl [4-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-phenyl]-phosphonate sodium salt | 74 mg, Yield: 50% | [Na+].NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)C#CC1=CC=C(C=C1)P(OCC)([O-])=O)OC)OC | InChI=1S/C23H25N4O5P.Na/c1-4-32-33(28,29)19-9-6-15(7-10-19)5-8-17-11-16(13-20(30-2)21(17)31-3)12-18-14-26-23(25)27-22(18)24;/h6-7,9-11,13-14H,4,12H2,1-3H3,(H,28,29)(H4,24,25,26,27);/q;+1/p-1
